US07427613B2
Cyclopropyl-(2,3-difluorobenzyl)amine
Synthesized according to typical procedure J from 2,3-difluorobenzaldehyde and cyclopropylamine.

reactant | 2,3-difluorobenzaldehyde | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(2,3-difluorobenzyl)amine | C1(CC1)NCC1=C(C(=CC=C1)F)F | C10H11F2N
